US06894061B2
N-[1-(2′,5′-Difluoro-1,1′-biphenyl-2-yl)ethyl]-4-methoxybenzenesulfonamide
4-Methoxybenzenesulfonyl chloride (326 mg, 1.6 mmol) was added to a solution of 1-(2′,5′-difluoro-1,1′-biphenyl-2-yl)ethylamine (350 mg, 1.5 mmol) and triethylamine (418 uL, 3 mmol) in acetonitrile. The reaction was stirred at ambient temperature for 16 hours, whereupon dichloromethane was added and the reaction washed with water. The organic phase was dried over anhydrous sodium sulfate, filtered, concentrated, and purified by preparative liquid chromatography on a Biotage® 40 Mi column of prepacked silica gel (90 g), eluting with a gradient of 30%-50% methyl tert-butyl ether in hexane (35 min), to afford the product (540 mg, 89%) as a white solid, m.p. 143-144° C.;

reactant | 4-Methoxybenzenesulfonyl chloride | 1.6 mmol, 326 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | 1-(2′,5′-difluoro-1,1′-biphenyl-2-yl)ethylamine | 1.5 mmol, 350 mg | FC1=C(C=C(C=C1)F)C1=C(C=CC=C1)C(C)N | C14H13F2N
reactant | triethylamine | 3 mmol, 418 uL | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | acetonitrile | C(C)#N | C2H3N
product | N-[1-(2′,5′-Difluoro-1,1′-biphenyl-2-yl)ethyl]-4-methoxybenzenesulfonamide | 540 mg, 89% | FC1=C(C=C(C=C1)F)C1=C(C=CC=C1)C(C)NS(=O)(=O)C1=CC=C(C=C1)OC | C21H19F2NO3S
